US06974877B2
To 1.0 grams of 2-biphenylcarboxylic acid was added 3 mL of trifluoromethanesulfonic acid. The sample was maintained at room temperature for 2.5 hours The mixture was poured over ice-water and extracted with ethyl acetate. The organic phase was washed with a saturated aqueous sodium bicarbonate solution until the aqueous phase was basic. The aqueous phase was separated. The organic phase was washed with water, dried over magnesium sulfate, and concentrated in vacuo to give 9H-fluoren-9-one.

reactant | 2-biphenylcarboxylic acid | 1.0 grams | C=1(C(=CC=CC1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | trifluoromethanesulfonic acid | 3 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 9H-fluoren-9-one | C1=CC=CC=2C3=CC=CC=C3C(C12)=O | C13H8O
